US07521449B2
A) Copper(II) Dipivaloate
To a suspension of 13.6 g of CuCO3.Cu(OH)2 in 50 ml of water is added, dropwise at rt, a solution of 18.6 g of pivalic acid in 100 ml of hot water, and the mixture is stirred until the evolution of gas has ceased. The reaction mixture is filtered by suction and the precipitate is washed four times with water. The precipitate is taken up in 300 ml of THF, the insoluble material is filtered off and the filtrate is concentrated under vacuum. 7.2 g of the expected product are obtained after drying under vacuum.

reactant | CuCO3.Cu(OH)2 | 13.6 g | C(=O)([O-])[O-].O.O.[Cu].[Cu+2]
reactant | pivalic acid | 18.6 g | C(C(C)(C)C)(=O)O | C5H10O2
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | Copper(II) Dipivaloate | 7.2 g | C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].[Cu+2] | InChI=1S/2C5H10O2.Cu/c2*1-5(2,3)4(6)7;/h2*1-3H3,(H,6,7);/q;;+2/p-2
